US07829560B2
N-(4-{[2-(Cyclohexylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide (Compound B323).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and cyclohexylamine according to conditions described in general procedure C. Mp: 135-136° C.; 1H NMR (400 MHz, CDCl3) δ 1.10-1.25 (m, 6 H), 1.58-1.64 (m, 4 H), 1.19 (bs, 1 H), 3.27 (s, 4 H), 3.87-3.89 (m, 4 H), 4.90 (s, 1 H), 6.05 (s, 1 H), 6.78 (d, J=11.3 Hz, 1 H), 7.07 (d, J=7.8 Hz, 1 H), 7.26 (s, 1 H), 7.31-7.33 (m, 2 H), 7.51-7.61 (m, 2 H), 7.90 (d, J=8.6 Hz, 1 H), 7.97-8.00 (m, 2 H), 8.07 (s, 1 H), 8.12 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-(4-{[2-(Cyclohexylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide | C1(CCCCC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C31H32FN5O3
